US04737514
To 13.5 g (0.05 mol) of 3-cyanothioxanthen-9-one 10,10-dioxide was added ethylenediamine, 6.0 g (0.1 mol), and sodium methoxide, 0.5 g (0.01 mol), in 100 ml methanol and the mixture was heated at reflux for 3 days. The reaction mixture was filtered hot and the solid was washed with two 50 ml portions of methanol. The crude product was recrystallized from ethanol to yield 3-(2-imidazolin-2-yl)thioxanthen-9-one 10,10-dioxide, 11.0 g, as bright orange crystals, m.p. 241°-242° C.

reactant | 3-cyanothioxanthen-9-one 10,10-dioxide | 0.05 mol, 13.5 g | C(#N)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H7NO3S
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-(2-imidazolin-2-yl)thioxanthen-9-one 10,10-dioxide | N1C(=NCC1)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C16H12N2O3S
